US08044068B2
To a mixture of 2-chloro-6-methoxy-4-methylquinoline (1.1 g), Pd2(dba)3 (0.242 g), (±)-BINAP (0.495 g), (S)-1-benzyl-3-aminopyrrolidine (1.1 g), and 1,4-dioxane (88 mL) was added sodium t-butoxide (1.65 g) under nitrogen atmosphere, and the mixture was stirred at 65° C. for 3 h. The reaction mixture was diluted with ethyl acetate and water, then the interlayer was removed by Celite filtration, and the organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=10:1) to obtain (S)-N-(1-benzylpyrrolidin-3-yl)-6-methoxy-4-methylquinolin-2-amine (1.1 g). (2) (S)-N-(1-Benzylpyrrolidin-3-yl)-6-methoxy-4-methylquinolin-2-amine (1.1 g) was dissolved in methanol (25 mL), followed by addition of 20% Pd(OH)2/C (0.20 g), and the mixture was stirred at 45° C. under hydrogen atmosphere for 5 h. The catalyst was removed by Celite filtration, and then the filtrate was concentrated under reduced pressure to obtain (S)-6-methoxy-4-methyl-N-(pyrrolidin-3-yl)quinolin-2-amine (0.81 g).

reactant | (S)-N-(1-Benzylpyrrolidin-3-yl)-6-methoxy-4-methylquinolin-2-amine | 1.1 g | C(C1=CC=CC=C1)N1C[C@H](CC1)NC1=NC2=CC=C(C=C2C(=C1)C)OC | C22H25N3O
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd(OH)2/C | 0.20 g | [OH-].[OH-].[Pd+2]
product | (S)-6-methoxy-4-methyl-N-(pyrrolidin-3-yl)quinolin-2-amine | 0.81 g | COC=1C=C2C(=CC(=NC2=CC1)N[C@@H]1CNCC1)C | C15H19N3O
